US06498172B1
(3-{[(Pyridine-2-sulfonyl)-(4-pyrimidin-2-yl-benzyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester
The title compound of Step A was prepared from {3-[(4-pyrimidin-2-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester, prepared in Step A of Example 13o, and pyridine-2-sulfonyl chloride hydrochloride, of Preparation 47, following the method described in Example 3, Step B. 1H NMR (400 MHz, CDCl3) δ 8.78 (d, 2H), 8.67 (d, 1H), 8.26 (d, 2H), 7.96 (d, 1H), 7.85 (m, 1H), 7.44 (m, 1H), 7.19-7.09 (m, 4H), 6.73 (m, 3H), 4.54 (s, 2H), 4.48 (s, 2H), 4.40 (s, 2H), 1.48 (s, 9H); MS 547 (M+1).

reactant | {3-[(4-pyrimidin-2-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C1=NC=CC=N1)=O | C24H27N3O3
reactant | pyridine-2-sulfonyl chloride hydrochloride | Cl.N1=C(C=CC=C1)S(=O)(=O)Cl
product | (3-{[(Pyridine-2-sulfonyl)-(4-pyrimidin-2-yl-benzyl)-amino]-methyl}-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CN(CC1=CC=C(C=C1)C1=NC=CC=N1)S(=O)(=O)C1=NC=CC=C1)=O | C29H30N4O5S
